US07217723B2
a)(5-Bromo-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)-methyl-carbamic acid t-butyl ester
To a solution of (5-bromo-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)-carbamic acid t-butyl ester (the compound of Preparation Example 97) (1 g) and potassium carbonate (278 mg) in N,N-dimethylformamide was added methyl iodide (0.75 mL). After stirred for 2 hours, ethyl acetate was added, and insoluble matter was removed by filtration. The residue resulting form evaporating the filtrate in vacuo was purified by silica gel column chromatography (hexane/ethyl acetate), and a colorless oily matter (958 mg) was obtained.

reactant | (5-bromo-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)-carbamic acid t-butyl ester | C(C)(C)(C)OC(NC=1SC(=CC1S(N(C)CC(O)C1=CC=C(C=C1)F)(=O)=O)Br)=O | C18H22BrFN2O5S2
reactant | potassium carbonate | 278 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.75 mL | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (5-Bromo-3-{[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-sulfamoyl}-thiophene-2-yl)-methyl-carbamic acid t-butyl ester | C(C)(C)(C)OC(N(C)C=1SC(=CC1S(N(C)CC(O)C1=CC=C(C=C1)F)(=O)=O)Br)=O | C19H24BrFN2O5S2
